US06559143B1
(i) 4-[(3-Hydroxypropyl)amino]benzonitrile
A mixture of 4-fluorobenzonitrile (12.0 g, 99.1 mmol) and 3-amino-1-propanol (59.6 g, 793 mmol) was stirred at 80° C. under an inert atmosphere for 3 hours before water (150 mL) was added. The mixture was allowed to cool to rt, and was then extracted with diethyl ether. The organic layer was separated, dried (Na2SO4), filtered and concentrated in vacuo to yield 17 g (97%) of the title compound as an oil that crystallised upon standing.

reactant | 4-fluorobenzonitrile | 99.1 mmol, 12.0 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 3-amino-1-propanol | 793 mmol, 59.6 g | NCCCO | C3H9NO
solvent | water | 150 mL | O | H2O
product | 4-[(3-Hydroxypropyl)amino]benzonitrile | 17 g, 97% | OCCCNC1=CC=C(C#N)C=C1 | C10H12N2O
